US07662808B2
4-(4-Nitro-phenyl)-1,4-diaza-bicyclo[3.2.2]nonane hydrofluoric acid salt (Intermediate compound)
A mixture of 1,4-diazabicyclo[3.2.2]nonane (20.2 g, 160 mmol), 1-fluoro-4-nitrobenzene (17.5 ml, 163.3 mmol) and ethylene glycol diethyl ether (160 ml) was stirred at 135° C. for 18 hours. The mixture was cooled to room-temperature and diethyl ether (100 ml) was added. The mixture was filtered and the product was isolated by filtration. Yield 24.8 g (58%). Mp. 122-129° C.

reactant | 1,4-diazabicyclo[3.2.2]nonane | 160 mmol, 20.2 g | N12CCNC(CC1)CC2 | C7H14N2
reactant | 1-fluoro-4-nitrobenzene | 163.3 mmol, 17.5 ml | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | ethylene glycol diethyl ether | 160 ml | C(C)OCCOCC | C6H14O2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4-(4-Nitro-phenyl)-1,4-diaza-bicyclo[3.2.2]nonane hydrofluoric acid salt | F.[N+](=O)([O-])C1=CC=C(C=C1)N1CCN2CCC1CC2 | InChI=1S/C13H17N3O2.FH/c17-16(18)13-3-1-11(2-4-13)15-10-9-14-7-5-12(15)6-8-14;/h1-4,12H,5-10H2;1H
